US06214869B1
(cis)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl]methyl]-2-methyl propanamide
The title compound was prepared by the general procedure described in Example 1 using (cis)-2-(2,3-dihydrobenzofuran-4-yl)cycloprop-1-yl methyl amine (0.79 mmol), triethylamine (2.37 mmol) and isobutyryl chloride (0.95 mmol). Purification by recrystallization from EtOAc/Hexanes provided 76 mg of the desired product (37%) as colorless plates. HPLC purity>98%. m.p. 125-126°;

reactant | (cis)-2-(2,3-dihydrobenzofuran-4-yl)cycloprop-1-yl methyl amine | 0.79 mmol | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)NC | C12H15NO
reactant | triethylamine | 2.37 mmol | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 0.95 mmol | C(C(C)C)(=O)Cl | C4H7ClO
product | (cis)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl]methyl]-2-methyl propanamide | 76 mg, 37% | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)CNC(C(C)C)=O | C16H21NO2
